US07465795B2
2,4-Dimethoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrimidine
To a 100 mL round-bottomed flask charged with 4 Å molecular sieves (approximately 1 g) was added the 2,4-dimethoxypyrimidine-5-boronic acid (5.34 g, 29.0 mmol) and anhydrous tetrahydrofuran (25 mL). The pinocol (2.98 g, 25.3 mmol) was added and the reaction stirred at room temperature for 1.5 hours. Additional 2,4-dimethoxypyrimidine-5-boronic acid (662.2 mg, 3.6 mmol) was added and the reaction stirred overnight. Molecular sieves and 2,4-dimethoxypyrimidine-5-boronic acid (1.53 g, 8.3 mmol) were added and the reaction stirred for 0.5 hours. Pinacol (0.613 g, 5.2 mmol) was then added. After 2 hours, the molecular sieves were removed by filtration and the filtrate was concentrated. After drying under high vacuum, the title compound was obtained as a fine yellow solid (8.61 g, 79%). 1H NMR (300.132 MHz, CDCl3) δ 8.56 (s, 1H), 4.01 (d, J=1.5 Hz, 6H), 1.34 (s, 12H).

reactant | 2,4-dimethoxypyrimidine-5-boronic acid | 29.0 mmol, 5.34 g | COC1=NC=C(C(=N1)OC)B(O)O | C6H9BN2O4
reactant | 2,4-dimethoxypyrimidine-5-boronic acid | 3.6 mmol, 662.2 mg | COC1=NC=C(C(=N1)OC)B(O)O | C6H9BN2O4
reactant | 2,4-dimethoxypyrimidine-5-boronic acid | 8.3 mmol, 1.53 g | COC1=NC=C(C(=N1)OC)B(O)O | C6H9BN2O4
reactant | Pinacol | 5.2 mmol, 0.613 g | OC(C)(C)C(C)(C)O | C6H14O2
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 2,4-Dimethoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrimidine | COC1=NC=C(C(=N1)OC)B1OC(C(O1)(C)C)(C)C | C12H19BN2O4
